US05703091
a) 4-p-Fluorophenylcyclohex-1-ene-1,2-dicarboximide
A reaction mixture of 45.3 g (300 mmol) of cyclohex-4-ene-cis-1,2-dicarboximide, 82.5 ml (750 mmol) of p-bromofluorobenzene, 5.4 g (24 mmol) of palladium(II) acetate, 6.3 g (24 mmol) of triphenylphosphine, 29.7 ml (300 mmol) of piperidine and 11.4 ml (300 mmol) of formic acid in 600 ml of dimethylformamide was heated at 95° to 100° C. for 6 h with good stirring. After concentrating the mixture in an oil pump vacuum, the residue was partitioned between water and methylene chloride, the mixture was acidified with ten percent hydrochloric acid, the organic phase was washed with ten percent hydrochloric acid and the organic phase was concentrated after drying with sodium sulfate. The crude product (71 g) was stirred in 350 ml of ethyl acetate and the brown solid was filtered off with suction and washed with ethyl acetate. Concentration of the filtrate afforded 56 g of crude product, which was purified by column chromatography (silica gel, eluent ethyl acetate/n-hexane 40:60). 2 main fractions were isolated: the non-polar zone yielded 13.3 g of product which was washed with a 1:1 mixture of ethyl acetate and n-hexane by stirring. 8.9 g (12%) of product of m.p. 136°-137° C. were isolated.

reactant | p-bromofluorobenzene | 750 mmol, 82.5 ml | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | triphenylphosphine | 24 mmol, 6.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | piperidine | 300 mmol, 29.7 ml | N1CCCCC1 | C5H11N
reactant | formic acid | 300 mmol, 11.4 ml | C(=O)O | CH2O2
reactant | dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
catalyst | palladium(II) acetate | 24 mmol, 5.4 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-p-Fluorophenylcyclohex-1-ene-1,2-dicarboximide | 13.3 g | FC1=CC=C(C=C1)C1CC2=C(CC1)C(=O)NC2=O | C14H12FNO2
